US05773530
A mixture of cis-3-[2-(2-ethoxycarbonylmethyl-cyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (89.7 mg), 1N aqueous sodium hydroxide (1 ml), and dioxane (4 ml) was stirred at room temperature for 5 hours and at 70° C. for 4 hours. Dioxane was removed in vacuo. The remaining aqueous solution was diluted with water and extracted with ethyl acetate (10 ml). The aqueous layer was acidified with 1N hydrochloric acid and extracted with dichloromethane (10 ml x 2). The combined extracts were washed with brine (10 ml), dried over anhydrous magnesium sulfate, and evaporated in vacuo to give colorless crystals of cis-3-[2-(2-carboxymethylcyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (71.4 mg).

reactant | cis-3-[2-(2-ethoxycarbonylmethyl-cyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 89.7 mg | C(C)OC(=O)C[C@@H]1[C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C27H28N4O3
reactant | sodium hydroxide | 1N, 1 ml | [OH-].[Na+]
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | cis-3-[2-(2-carboxymethylcyclohexyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 71.4 mg | C(=O)(O)C[C@@H]1[C@@H](CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H24N4O3
